Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
___ Perles / allopurinol / indomethacin
 
Attending: ___.
 
Chief Complaint:
Planned admission for immunotherapy
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
HISTORY OF PRESENT ILLNESS: A ___ year-old female with history of
aggressive primary bone b-cell lymphoma diagnosed in ___ after
presenting with persistent right ankle pain. She was in 
remission
since ___ after treatment with XRT and concurrent Rituxan
for a total of 4 doses, followed by 3C of mini-CHOP and 2C of
Doxil, Cytoxan, Prednisone and Rituxan, in a CR. Unfortunately,
she presented to clinic for routine follow on ___ and was
noted to have an elevated LDH. She underwent CT scan that showed
new mediastinal lymphadenopathy. PET-CT on ___ concerning for
relapsed lymphoma; therefore, she underwent a core needle biopsy
of right supraclavicular node ___. She received 2 cycles of
da-EPOCH-R with good response on PET. Unfortunately, she
presented with c/o breast "lumps" ___ which were biopsied and
found to be consistent with recurrent lymphoma. She tolerated
week 1 of BTIE protocol well, and is now admitted for week 3
protocol ___ (BITE).  

 
Past Medical History:
Past Medical History:
PAST ONCOLOGIC HISTORY:
___ year-old female with history of aggressive primary bone 
b-cell
lymphoma diagnosed in ___ after presenting with persistent 
right
ankle pain. She was in remission since ___ after treatment
with XRT and concurrent Rituxan for a total of 4 doses, followed
by 3C of mini-CHOP and 2C of Doxil, Cytoxan, Prednisone and
Rituxan, in a CR. Unfortunately, she presented to clinic for
routine follow on ___ and was noted to have an elevated LDH.
She underwent CT scan that showed new mediastinal
lymphadenopathy. PET CT on ___ confirmed concern for relapsed
lymphoma; therefore, she underwent a core needle biopsy of right
supraclavicular node ___. She was directly admitted on
___ with laboratory and imaging evidence of widespread
disease recurrence to initiate chemotherapy with da-EPOCH-R.
TREATMENT HISTORY:
 --Initial treatment with XRT to involved field due to increased
pain and difficulty walking.  Completed radiation therapy to the
right distal tibia (3000 cGy in 12 fractions) on ___.
 --Concurrent Rituxan on ___, and ___.
 --Developed hives to allopurinol and then following 1st dose of
Rituxan.  Took Allegra with Pepcid following subsequent dosing
without issues.
 --___ cycle R-CHOP.  Adriamycin and Vincristine given
at 50% dose reduction.  Prednisone 100 mg D 1, then 50 mg daily
for 4 days. 
 --Developed severe headache felt possibly related to Neulasta
vs. Ondansetron.  Evaluated at ___ with head CT without
IV contrast negative. 
 --___ cycle of R-CHOP. Adriamycin and Vincristine
given at 50% dose reduction.  Prednisone 100 mg D 1, then 50 mg
daily for 4 days.  Promethazine given as antiemetic.  Neulasta
held and no Neupogen needed.
 --___, repeat Echocardiogram with normal LVEF of 60-65%. 
 --___ cycle of R-CHOP.  Vincristine at 50% dose
reduction.  Adriamycin at almost full dose.
 --___, PET scan with excellent response with evidence for
healing bone; no evidence of Lymphoma
 --___ cycle of Doxil, Cytoxan, Prednisone, Rituxan
 --___ cycle of Doxil, Cytoxan, Prednisone, Rituxan
 --Follow up imaging without evidence for recurrence.
 --___, noted for increased LDH with CT scan showing
increased adenopathy in supraclavicular area.  
 --___, PET scan with increased uptake in supraclavicular
node as well as right tibial area.  
 --___, right supraclavicular LN biopsy confirmed
recurrence of the high grade lymphoma with LDH increasing to 
over
1000.  
 --___, Initiated treatment with R-EPOCH(dose level -1)
with Rituxan 100 mg given on D5
 --___, Rituxan 400 mg given to complete C 1 dose.
 --___, C2 Rituxan 500 mg
 --___, C2 R-EPOCH(dose level -1); Vincristine capped at 2
mg.
 --___, PET scan with resolution of lymphadenopathy and 
FDG
avid lymphoma.
 --___, C3 Rituxan 500 mg IV
 --___, C4 Rituxan Hycela 1400 mg SC
 --___, C5 Rituxan Hycela 1400 mg SC
 --___, C6 Rituxan Hycela 1400 mg SC
 --___, C7 Rituxan Hycela 1400 mg SC
 --___ Wk 1 protocol ___ BITE
 --___ Wk 2 protocol ___ BITE

PAST MEDICAL HISTORY/PAST SURGICAL HISTORY:  
 --Basal cell carcinoma of the face in ___ sees Dermatology
periodically.  MOHS procedure to cheek
forehead on ___. 
 --Status post bilateral hip replacements in ___ and ___.
 --Status post hysterectomy in ___.  
 --Status post cataract surgeries left in ___, right in ___   
 --Status post right wrist fracture ___.  
 --Zoster in ___.

 

 
Social History:
___
Family History:
Significant for her mother who had colon cancer. No history of 
lymphoma in the family.

 
Physical Exam:
PHYSICAL EXAM:  
24 HR Data (last updated ___ @ 937)
    Temp: 98.1 (Tm 98.1), BP: 101/64, HR: 81, RR: 18, O2 sat:
95%, O2 delivery: RA, Wt: 97.2 lb/44.09 kg  
GENERAL: Well appearing, NAD
HEENT: PERRL with anicteric sclerae.  Oropharynx is moist
without erythema, lesions or thrush.
CHEST: 1 cm smooth mass 
LUNGS: CTAB, no adventitious LS, non-labored
HEART: Regular rate and rhythm without murmurs noted.
ABDOMEN: Soft, not distended with + bowel sounds; no tenderness.
No hepatosplenomegaly or other masses appreciated.
EXTREMITIES: no ___, WWP
SKIN: No rashes
or lesions

DISCHARGE PHYSICAL EXAM
========================
Temp: 97.5 PO BP:93/54, HR: 72 RR:16 SPO2:96    

GENERAL: Well appearing, NAD
HEENT: PERRL with anicteric sclerae.  Oropharynx is moist
without erythema, lesions or thrush.
CHEST: 1 cm smooth mass 
LUNGS: CTAB, no adventitious LS, non-labored
HEART: Regular rate and rhythm without murmurs noted.
ABDOMEN: Soft, not distended with + bowel sounds; no tenderness.
No hepatosplenomegaly or other masses appreciated.
EXTREMITIES: no ___, WWP
SKIN: No rashes or lesions
Line: LUE DL PICC dressing c/d/I, insertion site without 
erythema
or drainage, nontender. 
 
Pertinent Results:
ADMISSION LABS

___ 08:20AM BLOOD WBC: 6.2 RBC: 3.83* Hgb: 11.2 Hct: 35.2
MCV: 92 MCH: 29.2 MCHC: 31.8* RDW: 14.2 RDWSD: 48.2* Plt Ct: 301 

___ 08:20AM BLOOD Neuts: 76.3* Lymphs: 3.9* Monos: 8.2 Eos:
9.5* Baso: 0.5 Im ___: 1.6* AbsNeut: 4.73 AbsLymp: 0.24*
AbsMono: 0.51 AbsEos: 0.59* AbsBaso: 0.03 
___ 08:20AM BLOOD Glucose: 138* UreaN: 17 Creat: 0.6 Na: 
137
K: 4.1 Cl: 102 HCO3: 23 AnGap: 12 
___ 08:20AM BLOOD LD(LDH): 209 
___ 08:20AM BLOOD ALT: 15 AST: 19 AlkPhos: 89 TotBili: 0.4 
___ 08:20AM BLOOD Phos: 3.5 Mg: 1.9 UricAcd: 3.7 
___ 08:20AM BLOOD Albumin: 3.3* Calcium: 8.7 
___ 08:30AM URINE Sp ___: 1.020 
___ 08:30AM URINE Blood: TR* Nitrite: NEG Protein: 30*
Glucose: NEG Ketone: NEG Bilirub: NEG Urobiln: 2* pH: 6.0 Leuks:
SM* 
___ 08:30AM URINE RBC: 6* WBC: 6* Bacteri: NONE Yeast: NONE
Epi: 1 
___ 08:30AM URINE CastHy: 1* 
___ 08:30AM URINE Mucous: OCC* 

DISCHARGE LABS
===============

___ 12:00AM BLOOD WBC-4.5 RBC-3.72* Hgb-10.9* Hct-33.7* 
MCV-91 MCH-29.3 MCHC-32.3 RDW-13.8 RDWSD-46.3 Plt ___
___ 12:00AM BLOOD Neuts-60.2 Lymphs-13.1* Monos-11.6 
Eos-12.4* Baso-0.9 Im ___ AbsNeut-2.71 AbsLymp-0.59* 
AbsMono-0.52 AbsEos-0.56* AbsBaso-0.04
___ 05:15PM BLOOD  WBC-9.1 Lymph-2.0* Abs ___ CD3%-87 
Abs CD3-159* CD4%-85 Abs CD4-154* CD8%-3 Abs CD8-5* 
CD4/CD8-30.55*
___ 12:00AM BLOOD Glucose-83 UreaN-16 Creat-0.6 Na-138 
K-4.3 Cl-99 HCO3-23 AnGap-16
___ 12:00AM BLOOD ALT-15 AST-22 LD(LDH)-272* AlkPhos-76 
TotBili-0.3
___ 12:00AM BLOOD Albumin-3.5 Calcium-8.5 Phos-3.5 Mg-2.0
___ 12:00AM BLOOD Ferritn-98
___ 12:00AM BLOOD CRP-11.0*
 
Brief Hospital Course:
Ms. ___ is a ___ woman with recurrent high grade 
lymphoma presenting for week 4 of BITE therapy on protocol 
___.

ASSESSMENT & PLAN: Ms. ___ is a ___ year old female with 
recurrent high grade lymphoma presenting for week 4 of BITE 
therapy on protocol ___ ___omplicated by grade I 
CRS.

ACUTE CONDITIONS
==================

#GRADE I CRS: Episodes of fever [T101.5 on ___ & T100.3 
___ met criteria for grade 1 CRS per protocol though 
inflammatory markers are relatively stable. Alternatively, fever 
may be secondary to infectious process but in the absence of
focal infectious symptoms unlikely. In light of her infectious 
risk however, we sent blood culture, urine culture, urinalysis 
(all negative). As there was potential exposure to 
parainfluenza, we obtained a rapid influenza panel (negative) 
and rapid viral panel (pending). Deferred empiric antibiotics 
for now as she is not neutropenic and does not have focal 
symptoms. CXR did not reveal pneumonia. Also, there was some 
thought that her fever may be secondary to Bactrim as 
eosinophils were uptrending since restarting Bactrim though she 
remains without rash. She remains
hemodynamically stable, without concerns for neurotoxicity 
and/or progressive CRS symptoms. Of note, developed grade I CRS 
during week 3 treatment characterized by low grade fevers and 
relative hypotension [___]

#RECURRENT HIGH GRADE LYMPHOMA: 
#ENCOUNTER FOR IMMUNOTHERAPY:
Unfortunately, noted for recurrence of high grade lymphoma over 
___ years following initial treatment for primary bone lymphoma. 
Given the aggressive nature of the lymphoma, treated with 2 
cycles of R-EPOCH, which she tolerated very well. ___ PET scan 
showed good response. She received monthly Rituxan thereafter. 
She presented on ___ with new c/o breast lumps. Breast Bx ___ 
showed high grade lymphoma. Thereafter, she had a PET CT that 
showed an FDG avid cervical node as well as FDG uptake in the 
right distal tibia. Given these findings, trial w/ immunotherapy
agent with bispecific antibody was offered to patient. Work up 
for BITE included a BMBX which was negative for lymphoma 
involvement. Brain MRI was unremarkable for disease, and MRI 
ankle to further assess if that is a site of disease. She is s/p
week 3 of protocol ___ with bi-specific antibody therapy, now 
admitted for week 4. Notably, during week three, she has 
palpable lymph nodes (tonsillar, cervical and breast) that 
developed after BITE was administered but slowly becoming 
smaller (? likely from pseudo-progression). She continues on 
prophylaxis w/ Acyclovir BID
During admission re-trialed Bactrim for PCP ppx, which she 
tolerated without rash. She will return to clinic on ___ 
___ for Week 5 as an outpatient. She has restaging CT scans 
planned for ___. 

#HYPOPHOSPHATEMIA: Mildly low, ? ___ decreased PO vs. vitamin D 
deficiency. Monitored and trended daily.  

CHRONIC/RESOLVED CONDITIONS
================================

#ANEMIA: Normocytic, most likely ___ disease vs. treatment. 
Trended
CBC daily. Transfused for hgb < 7.

#RASH: Resolved. Non-pruritic macular papular rash to trunk 
which first presented ___. Most likely culprits at that time 
were Levaquin or Bactrim, although patient has tolerated Bactrim 
in the past, and now on re-trial without rash. 

#BASAL CELL CARCINOMA: S/p MOHS procedure on ___. Site 
without s/s of infection.

#THYROID NODULE: Noted FDG avid nodule on PET scan which is most 
likely related to thyroid. Had repeat thyroid ultrasound and TSH 
remains normal. Followed by Dr. ___. Outpatient team holding 
on biopsy for now with repeat thyroid ultrasound in ___
year per outpatient plan. 

CORE MEASURES  
================= 
#ACCESS: RUE DL ___ placed ___
#HCP: ___: Son: ___ 
#CODE STATUS: DNR/DNI, ok for ICU tx

TRANSITIONAL ISSUES
====================
[ ] Monitor for rash
[ ] stop Bactrim if rash appears, add to allergy list, start 
Atovaquone 
[ ] monitor for s/s of CRS 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acyclovir 400 mg PO Q12H 
2. Cyanocobalamin 1000 mcg PO DAILY 
3. Vitamin D 1000 UNIT PO DAILY 
4. Sodium Chloride 0.9%  Flush ___ mL IV DAILY and PRN, line 
flush 

 
Discharge Medications:
1.  Sulfameth/Trimethoprim SS 1 TAB PO DAILY  
2.  Acyclovir 400 mg PO Q12H  
3.  Cyanocobalamin 1000 mcg PO DAILY  
4.  Sodium Chloride 0.9%  Flush ___ mL IV DAILY and PRN, line 
flush  
5.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
Relapsed/Refractory High Grade Lymphoma
Encounter for Immunotherapy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___, 

You were admitted for week 4 of your immunotherapy per the 
research protocol. You remained in the hospital for monitoring, 
and are now ready for discharge. 

Please take all of your medications as directed. Please follow 
up as directed. 

Sincerely, 
your ___ team
 
Followup Instructions:
___